US07273868B2
A mixture of 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine (prepared in Example 90-(3)) 110 mg, 2-pyridinemethanol 34 mg, 10% sodium hydride 12 mg and tetrahydrofuran 3 ml is stirred at room temperature for 5 minutes. The reaction mixture is poured into water and extracted with ethyl acetate. The organic layer is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by silica gel chromatography (solvent: ethyl acetate) and triturated with ethyl ether to give 2-(2-pyridylmethoxy)-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine, 104 mg. mp 81-84° C., MS(m/z): 462(M+H)+

reactant | 2-chloro-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine | 110 mg | ClC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)C1=NC=CC=C1 | C18H14Cl2N4O2
reactant | 2-pyridinemethanol | 34 mg | N1=C(C=CC=C1)CO | C6H7NO
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-pyridylmethoxy)-4-(3-chloro-4-methoxybenzylamino)-5-(2-pyridylcarbonyl)pyrimidine | N1=C(C=CC=C1)COC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)C1=NC=CC=C1 | C24H20ClN5O3
